US08106077B2
3-(2,6-Dichloro-phenyl)-5-isopropyl-3H-[1,2,3]triazole-4-carboxylic acid ethyl ester
A solution of 2-azido-1,3-dichloro-benzene (1.0 g) and 4-methyl-pent-2-ynoic acid ethyl ester (1.8 g) in toluene (5 mL) is heated to 120° C. overnight. Two regioisomers are observed in a range of 1:1 to 3:1 in favor of the desired product. The reaction is concentrated under reduced pressure and the residue is purified by flash chromatography, eluting with 5% ethyl acetate in hexanes. 1H NMR (400 MHz, CDCl3) δ 7.48 (d, 2H), 7.42 (t, 1H), 4.22 (q, 2H), 3.64 (m, 1H), 1.46 (d, 6H), 1.15 (t, 3H).

reactant | 2-azido-1,3-dichloro-benzene | 1.0 g | N(=[N+]=[N-])C1=C(C=CC=C1Cl)Cl | C6H3Cl2N3
reactant | 4-methyl-pent-2-ynoic acid ethyl ester | 1.8 g | C(C)OC(C#CC(C)C)=O | C8H12O2
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
product | 3-(2,6-Dichloro-phenyl)-5-isopropyl-3H-[1,2,3]triazole-4-carboxylic acid ethyl ester | C(C)OC(=O)C=1N(N=NC1C(C)C)C1=C(C=CC=C1Cl)Cl | C14H15Cl2N3O2
